US06235355B1
To Grignard reagent prepared from 3,5-difluorobromobenzene 100 g (518 mmol) and magnesium in dried THF 300 ml at room temperature, a THF (300 ml) solution of cyclohexanedione monoethyleneketal 74.6 g (517 mmol) was added dropwise at room temperature, and the mixture was stirred for 3 hours at room temperature. The reactant was added to one liter of 2N-hydrochloric acid, and the product was extracted with diethylether. The extract was washed with water, a saturated sodium bicarbonate aqueous solution, and then water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. To the residue, para-toluene sulfonic acid 5 g and toluene 800 ml were added. The mixture was refluxed with heating while removing water formed with Dien-Stark. The reactant was washed with water, a saturated sodium bicarbonate aqueous solution, and then water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: heptane/ethyl acetate=3/1). Such obtained purified material was hydrogenated in the presence of 5% palladium carbon 5 g as a catalyst in ethanol 500 ml. The catalyst was filtered off, the solvent was distilled off under reduced pressure, formic acid 40 g and toluene 300 ml were added to the residue, and the mixture was refluxed for 3 hours. After cooling, water 500 ml was added to the reactant, and the organic layer was fractionated, washed with water, a saturated sodium bicarbonate aqueous solution, and then water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue was purified by silica gel column chromatography (eluent: heptane/ethyl acetate=3/1) to obtain 4-(3,5-difluorophenyl)cyclohexanone 29.4 g (140 mmol). The yield was 27.0% from 3,5-difluorobromobenzene.

reactant | 3,5-difluorobromobenzene | 518 mmol, 100 g | FC=1C=C(C=C(C1)F)Br | C6H3BrF2
reactant | magnesium | [Mg] | Mg
reactant | cyclohexanedione monoethyleneketal | 517 mmol, 74.6 g | C1COC2(C(CCCC2)=O)O1 | C8H12O3
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-(3,5-difluorophenyl)cyclohexanone | 140 mmol, 29.4 g, yield was 27.0% | FC=1C=C(C=C(C1)F)C1CCC(CC1)=O | C12H12F2O
